US06900216B2
Methylmagnesium chloride (3M solution in tetrahydrofuran; 5.7 ml) was added under nitrogen to a stirred solution of 4-chloro-N-methoxy-N-methylbenzo[b]thiophene-2-carboxamide (4 g; prepared in a manner similar to that described in Example 18) in tetrahydrofuran (120 ml) then the mixture was allowed to stand at ambient temperature for 30 minutes, heated under reflux for 30 minutes and allowed to stand at ambient temperature for 30 minutes. Further methylmagnesium chloride (3M solution in tetrahydrofuran; 2.0 ml) was added and the mixture was allowed to stand at ambient temperature for 2 hours. Further methylmagnesium chloride (3M solution in tetrahydrofuran; 2.0 ml) was added and the mixture was allowed to stand at ambient temperature for 30 minutes. Water (200 ml) and 5M hydrochloric acid (15 ml) were added and the product was extracted into dichloromethane (3×80 ml). The combined extracts were dried (MgSO4) and the solvents were removed in vacuo. The residue was purified by column chromatography over silica using dichloromethane as eluant. Appropriate fractions were combined and the solvents removed in vacuo to leave 1-(4-chloro-benzo[b]thiophen-2-yl]ethan-1-one (1.8 g) as an off-white solid, m.p. 113-115° C.

reactant | Methylmagnesium chloride | 3M, 5.7 ml | C[Mg]Cl
reactant | 4-chloro-N-methoxy-N-methylbenzo[b]thiophene-2-carboxamide | ClC1=CC=CC=2SC(=CC21)C(=O)N(C)OC | C11H10ClNO2S
reactant | methylmagnesium chloride | 3M, 2.0 ml | C[Mg]Cl
reactant | methylmagnesium chloride | 3M, 2.0 ml | C[Mg]Cl
reactant | Water | 200 ml | O | H2O
reactant | hydrochloric acid | 5M, 15 ml | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1-(4-chloro-benzo[b]thiophen-2-yl]ethan-1-one | 1.8 g | ClC1=CC=CC=2SC(=CC21)C(C)=O | C10H7ClOS
